Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamides)
 
Attending: ___
 
Chief Complaint:
fevers and shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yoF w/ a h/o diverticulosis recently admitted with fever and 
abdominal pain LLQ which lasted about 2 days, no diverticulitis 
on CT scan, not treated w/ abx and sent home as no source and 
abdominal pain resolved.  

She states the small rash on her R foot has increased in size 
slightly. She lives in the ___ area for most of the 
summer and does wear sandals. Does not remember a tick bite. She 
does have a dog.  
 
She states that she has had shortness of breath as well. States 
it was similar to her normal asthma exacerbations but did not go 
away. SOB was the same with activity or at rest.  

In general she has been very fatigued but denies any specific 
muscle aches, joint pains, headache, chest pain, rhinorrhea, 
cough, diarrhea, constipation, blurry vision, facial pain or 
other symptoms.  
  
In the ED CTA was obtained to r/o PE with her SOB, which was 
negative and she was admitted for further w/u of fever.  
 
Past Medical History:
Diverticulosis 
L kidney complex cyst 
Gallstones  
Asthma  

 
Social History:
___
Family History:
Mother with renal cell carcinoma. Father with a history of 
colonic polyps. Paternal grandparent with colon cancer. No 
family history of IBD.
 
Physical Exam:
VITAL: T 100.4 BP 140/70 HR 70 O2 98% RA  
GEN: A+Ox3, NAD  
HEENT: PERRL, EOMI, OP clear, MMM, JVP 10cm  
CV: RRR, ___ systolic murmur, mid peaking cresc-decresc @ R USB 
without radiation to carotids, no thrill  
PULM: CTAB, no wheezes  
ABD: Soft, NT, ND, +BS, no rebound, no palpable masses or 
organomegaly  
EXT: No peripheral edema, no stigmata of endocarditis R lateral 
foot with erythema, very mild edema, darkening towards center. 
No induration. + warmth. No pain or tenderness. No discharge. No 
tinea pedis.
Skin: a 5 by 3 cm erythematous rash in the xiphoid area and a 3 
by 3 cm erythematous rash on the right mid back.
 
Pertinent Results:
___ 08:20AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 08:20AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 LEUK-SM 

___ 08:20AM URINE  RBC-1 WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 06:25AM   GLUCOSE-104 UREA N-7 CREAT-0.9 SODIUM-140 
POTASSIUM-3.8 CHLORIDE-104 TOTAL CO2-28 ANION GAP-12
___ 06:25AM   ALT(SGPT)-62* AST(SGOT)-67* LD(LDH)-277* 
CK(CPK)-49 ALK PHOS-196* TOT BILI-0.5
___ 06:25AM   CK-MB-NotDone cTropnT-<0.01
___ 06:25AM   ALBUMIN-3.6 CALCIUM-8.7 PHOSPHATE-3.2 
MAGNESIUM-2.1
___ 06:25AM   CRP-181.3*
___ 06:25AM   WBC-6.5 RBC-4.20 HGB-12.4 HCT-36.5 MCV-87 
MCH-29.6 MCHC-34.0 RDW-13.6
___ 06:25AM   PLT COUNT-181
___ 06:30PM   HBsAg-NEGATIVE HBs Ab-NEGATIVE HBc 
Ab-NEGATIVE HAV Ab-POSITIVE IgM HBc-NEGATIVE IgM HAV-NEGATIVE
___ 06:30PM   HCV Ab-NEGATIVE
___ 06:30PM   CRP-190.1*
___ 06:30PM   LACTATE-1.4
___ 06:30PM   SED RATE-79*

ECHO: No evidence of endocarditis or clinically-significant 
regurgitant valvular disease. Normal LV wall thickness and 
global/regional biventricular systolic function.

 
Brief Hospital Course:
___ yo woman presented with rash, fever and shortness of breath.

# Fever: Given clinical presentation of rash, general malaise, 
fevers, elevated LFTs in the setting of frequent visits to ___ 
___ patient was presumed to have Lyme disease. Lyme 
titer sent on previous admission was initially pending and 
another was redrawn. Pt was started on Doxycycline 100mg PO BID 
to treat both Lyme and/or Ehrlichiosis and had rapid improvement 
of multiple areas of rash and became afebrile. She continued to 
have generalized malaise and some "heaviness in her head". Pt's 
initial Lyme titer eventually came back negative but due to 
pretest probability being very high and pt's response, lab 
result was presumed to be false negative/too early in course of 
disease.  

Pt was also checked for Legionella urine antigen which was 
negative, and had blood cultures (no growth) and an 
echocardiogram that demonstrated no vegetations. 

Pt's LFTs, LDH and fever curve were followed closely thoughout 
the hospital course. Ms ___ was seen by the infectious 
disease team, who advised in type and length of treatment. She 
was discharged to complete a 21-day course of doxycycline.

Her LFTs were elevated at the time of admission and remained 
slightly elevated at discharge. These should be re-checked as an 
outpatient and were thought possibly due to Ehrlichiosis.

Ehrlichia and Lyme serologies were pending at the time of 
discharge.
 
# Shortness of Breath: Pt's SOB was responsive to home regimen 
with additional prn albuterol nebs and improved after initiation 
of Doxycycline.
  
# EKG changes on admission: slightly early RWP with ST 
depressions from V2 or V3 - V6. Pt received aspirin in the ED. 
She had cardiac enzymes negative x3 and a normal echocardiogram. 
 

 
Medications on Admission:
Flovent 3 puffs qam  
Albuterol 2 puffs qam 
 
Discharge Medications:
1. Fluticasone 110 mcg/Actuation Aerosol Sig: Three (3) Puff 
Inhalation QAM (once a day (in the morning)).  
2. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation QAM (once a day (in the morning)).  
3. Doxycycline Hyclate 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours) for 21 days.
Disp:*42 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lyme Disease

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted with persistent fevers, general malaise, 
shortness of breath and a rash on your right foot. You also had 
some mildly elevated liver enzymes and markers of inflammation. 
This systemic presentation was clinically consistant with Lyme 
disease even though there was no classic rash or known history 
of tick bite. You were started on an antibiotic (Doxycycline) to 
treat the presumed Lyme disease with improvement of your rash. 

On discharge you will need to continue the Doxycycline for a 
total of 21 days, last dose ___. 

If your weakness continues to not improve or worsen, if your 
rash persists or worsens, or you have any other questions or 
concerns, please call your physician or return to the hospital. 
 
Followup Instructions:
___